US06841554B2
Methylammonium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]-pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate (10 g) was added to ethyl acetate (125 ml). The mixture was cooled to 5° C. and 1M hydrochloric acid in saturated brine (20 ml) was added, followed by water (30 ml) to obtain a two-phase solution. The aqueous phase was separated off and the organic phase was washed with water (30 ml) and dried over anhydrous magnesium sulphate. Aqueous ammonia (1.7 ml) was added, followed by ethyl acetate (80 ml), and the solution was concentrated under vacuum and diluted with ethyl acetate (60 ml). The mixture was stirred at 0° C. to 5° C. for 90 minutes and the product was isolated by filtration and dried at 30° C. under vacuum to give ammonium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]-pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate (6.33 g) as white crystals. The X-ray powder diffraction spectra for a typical sample of the crystalline ammonium salt is shown in FIG. 1 hereinafter. The ten most prominent peaks in the XRD occur at about 2-theta=12.9, 15.2, 18.0, 18.2, 18.5, 20.2, 22.4, 23.0, 24.0 and 27.2°.

reactant | Methylammonium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]-pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate | 10 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)[O-])O)O)C(C)C)N(S(=O)(=O)C)C.C[NH3+]
reactant | ethyl acetate | 125 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | water | 30 ml | O | H2O
solvent | brine | 20 ml | [Cl-].[Na+].O
product | ammonium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]-pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate | 6.33 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)[O-])O)O)C(C)C)N(S(=O)(=O)C)C.[NH4+] | InChI=1S/C22H28FN3O6S.H3N/c1-13(2)20-18(10-9-16(27)11-17(28)12-19(29)30)21(14-5-7-15(23)8-6-14)25-22(24-20)26(3)33(4,31)32;/h5-10,13,16-17,27-28H,11-12H2,1-4H3,(H,29,30);1H3/b10-9+;/t16-,17-;/m1./s1
